US04131686
2.1 g of 2-ethoxyphenylglyoxal (crude oil) are dissolved in 20 ml of ethanol, and 1.85 g of 3,4-dimethoxyphenethylamine are added thereto. The solution is stirred at room temperature for 30 minutes, whereby a solution containing α-(3,4-dimethoxyphenethylimino)-2-methoxyacetophenone is obtained. 0.6 g of sodium borohydride is added gradually to said solution under ice-cooling, and the mixture is stirred at room temperature for one hour. The reaction mixture is evaporated to remove solvent. Water is added to the thus obtained residue. Then, the aqueous mixture is extracted with chloroform. The extract is washed with water, dried and then evaporated to remove solvent. The oily residue thus obtained is treated with hydrochloric acid and recrystallized from a mixture of isopropanol and ether. 3.1 g of α-(3,4-dimethoxyphenethylaminomethyl)-2-ethoxybenzylalcohol hydrochloride are obtained. M.p. 169°-170° C.

reactant | 2-ethoxyphenylglyoxal | 2.1 g | C(C)OC1=C(C=CC=C1)C(=O)C=O | C10H10O3
reactant | 3,4-dimethoxyphenethylamine | 1.85 g | COC=1C=C(CCN)C=CC1OC | C10H15NO2
reactant | α-(3,4-dimethoxyphenethylimino)-2-methoxyacetophenone | COC=1C=C(CCN=C(C(=O)C2=CC=CC=C2)OC)C=CC1OC | C19H21NO4
reactant | sodium borohydride | 0.6 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | α-(3,4-dimethoxyphenethylaminomethyl)-2-ethoxybenzylalcohol hydrochloride | 3.1 g | Cl.COC=1C=C(CCNCC(C2=C(C=CC=C2)OCC)O)C=CC1OC | InChI=1S/C20H27NO4.ClH/c1-4-25-18-8-6-5-7-16(18)17(22)14-21-12-11-15-9-10-19(23-2)20(13-15)24-3;/h5-10,13,17,21-22H,4,11-12,14H2,1-3H3;1H
